US07582626B2
h) N-(4-Methanesulfonylamino-2-sulfamoyl-phenyl)-malonamic acid ethyl ester
To 2-amino-5-methanesulfonylamino-benzenesulfonamide (prepared as described in Examples 1d or 1gc′, 175 mg, 0.66 mmol) was added diethyl malonate (297 mg, 1.66 mmol) and heated at 160° C. for 60 min. After cooling down to 25° C., a 1:1 mixture of ethyl acetate/hexanes (5 mL) was added, upon which as a white solid precipitated out. The solid was collected by vacuum filtration, washed twice with a 1:1 mixture of ethyl acetate/hexanes, and dried under high vacuum to afford the desired product, N-(4-methanesulfonylamino-2-sulfamoyl-phenyl)-malonamic acid ethyl ester (179 mg, 0.47 mmol, 72%) as an off-white solid. 1H NMR (400 MHz, CD3OD) δ: 1.32 (t, 3H, J=7.0 Hz), 3.00 (s, 3H), 3.60 (s, 2H), 4.25 (quartet, 2H, J=6.8 Hz), 7.44 (dd, 1H, J1=3.2 Hz, J2=8.4 Hz), 7.87 (d, 1H, J=5.6 Hz), 7.92 (d, 1H, J=8.4 Hz). LC-MS (ESI+) calcd for C12H17N3O7S2 379.05, found 380.1 [M+H+].

reactant | 2-amino-5-methanesulfonylamino-benzenesulfonamide | NC1=C(C=C(C=C1)NS(=O)(=O)C)S(=O)(=O)N | C7H11N3O4S2
reactant | diethyl malonate | 1.66 mmol, 297 mg | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | N-(4-methanesulfonylamino-2-sulfamoyl-phenyl)-malonamic acid ethyl ester | 0.47 mmol, 179 mg, 72% | C(C)OC(CC(=O)NC1=C(C=C(C=C1)NS(=O)(=O)C)S(N)(=O)=O)=O | C12H17N3O7S2
